2130-12-06 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2130-12-5**] 09:00 PM
   Started on decadron
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 02:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-6**] 12:01 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Slight shortness of breath, improved, cough
   resolved.  Denies abdominal pain
   Flowsheet Data as of  [**2130-12-6**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 102 (102 - 131) bpm
   BP: 94/73(78) {94/59(71) - 110/73(78)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,472 mL
                                                                    755 mL
   PO:
             TF:
   IVF:
                                                                  1,412 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    800 mL
   Urine:
                                                                  1,500 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -28 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG:
   Physical Examination
   General Appearance: Thin, NAS
   HEENT: PERRL, MMM, neck mildly tenderness to palpation.
   Cardiovascular: RRR, s1/s2, no appreciable murmur
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: Expansion: Symmetric, diffuse minimal  upper
   airway noises
   Abdominal: Soft, Non-tender, J tube in place, non-tender
   Extremities: no clubbing, cyanosis, edema
   Neurologic: Attentive, Follows simple commands, Responds,
   Communication with phone translator.
   Labs / Radiology
   7.9 K/uL
   633 K/uL
   9.7 g/dL
   138 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   10 mg/dL
   98 mEq/L
   136 mEq/L
   27.8 %
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
   WBC
   7.9
   Hct
   27.8
   Plt
   633
   Cr
   0.5
   Glucose
   138
   Other labs: Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   40 yo woman with a history of esophageal cancer; admitted for stridor
   and airway compromise in the setting of nausea/vomiting.
   1. Airway obstruction:  Now significantly improved.  Pt to receive last
   dose of decadron this evening.  ENT following and would like thoracic
   surgery evaluation for ? of esophageal perforation.
   - continue IV steroids
   - ENT recs
   - contact [**Name (NI) **] surgery
   2. Malignancy: Patient s/p chemo and radiation.  Recent CT with
   concerning lung lesion (? metastatic disease).  Will need further
   oncology follow-up.
   - F/u onc recs
   - MRI of neck today for further evaluation of lesion.
   3. Anemia/Thrombocytosis: currently at baseline, no signs of active
   bleeding
   ICU Care
   Nutrition:  J tube, NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-5**] 06:03 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:  Transfer to OMED

2130-12-06 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, stridor, esophageal ca,
   laryngeal edema, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on decadron through the night. Stridor improving.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2130-12-5**] 09:00 PM
   History obtained from Patient
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-6**] 08:00 AM
   Other medications:
   protonix, decadron, methadone, nortryptaline, neurontin, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-6**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.8
C (96.5
   HR: 108 (96 - 131) bpm
   BP: 109/57(63) {94/57(63) - 110/73(78)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,472 mL
                                                                    885 mL
   PO:
             TF:
   IVF:
                                                                  1,412 mL
                                                                    885 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    800 mL
   Urine:
                                                                  1,500 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -28 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : Slight expiratory prolongation, No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): not able to assess with language barrier,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   633 K/uL
   138 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   10 mg/dL
   98 mEq/L
   136 mEq/L
   27.8 %
   7.9 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
   WBC
   7.9
   Hct
   27.8
   Plt
   633
   Cr
   0.5
   Glucose
   138
   Other labs: Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   RESPIRATORY DISTRESS
   LARYNGEAL EDEMA
   Patient no longer using accessory muscles of ventilation. Stridor
   greatly improved. Completing course of decadron.
   Thoracic surgery to assess patient re: possible esophageal stricture.
   Patient to get MRI today.
   Consider PET scan for pulmonary nodule.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-5**] 06:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2130-12-07 12:32:00 Physician Attending Progress Note
Chief Complaint: Laryngeal edema, respiratory distress, esophageal
   rupture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient comfortable throughout the day. O2 sats good without
   supplemental oxygen. MRI suggests there is esophageal perfoation.
   24 Hour Events:
   History obtained from Patient
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 01:53 PM
   Vancomycin - [**2130-12-7**] 07:24 AM
   Metronidazole - [**2130-12-7**] 08:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-7**] 08:10 AM
   Pantoprazole (Protonix) - [**2130-12-7**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-7**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 85 (85 - 111) bpm
   BP: 95/59(67) {93/57(66) - 113/92(98)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,565 mL
                                                                    952 mL
   PO:
             TF:
                                                                    145 mL
                                                                    239 mL
   IVF:
                                                                  1,315 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,300 mL
   Urine:
                                                                  1,550 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Expiratory wheeze localized over neck; I/E=[**12-29**], No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess given language barrier,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   10.4 g/dL
   645 K/uL
   142 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   15 mg/dL
   97 mEq/L
   133 mEq/L
   30.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
   WBC
   7.9
   12.8
   Hct
   27.8
   30.3
   Plt
   633
   645
   Cr
   0.5
   0.6
   Glucose
   138
   142
   Other labs: Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   Patient's voice continues to improve. Oxygenation remains excellent
   without supplemental oxygen. On antibiotics for esophageal perforation.
   Hct stable. No evidence of acute bleeding. Not at transfusion threshold
   now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-5**] 06:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:  25

2130-12-08 07:56:00 Physician Resident Progress Note
Chief Complaint:   Airway compromise, strior
   24 Hour Events:
   Patient had no stridor while awake but developed stridor while
   sleeping.  Pt denied feeling SOB or respiratory distress and Maintained
   O2 sats.
   HR up to 120
s w/exertion (walking to toilet).
   ENT and thoracics discussing the need for tracheostomy.
   Pt constipated (no BM since [**12-3**]), given lactulose.
   Now NPO for possible trach placement
   SBPs in the low 90
s this AM; given 500cc bolus.
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 01:53 PM
   Vancomycin - [**2130-12-7**] 08:30 PM
   Metronidazole - [**2130-12-7**] 11:59 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-12-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-7**] 11:59 PM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  continues to have throat discomfort.  Otherwise
   feels ok
   Flowsheet Data as of  [**2130-12-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 96 (76 - 105) bpm
   BP: 99/61(68) {92/51(62) - 107/69(76)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,860 mL
                                                                    710 mL
   PO:
             TF:
                                                                    390 mL
   IVF:
                                                                  2,060 mL
                                                                    710 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    700 mL
   Urine:
                                                                  1,900 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   514 K/uL
   9.0 g/dL
   97 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   99 mEq/L
   135 mEq/L
   26.8 %
   7.0 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
                            [**2130-12-8**]  04:25 AM
                            [**2130-12-8**]  06:10 AM
   WBC
   7.9
   12.8
   7.0
   Hct
   27.8
   30.3
   26.8
   Plt
   633
   645
   514
   Cr
   0.5
   0.6
   0.7
   Glucose
   138
   142
   97
   Other labs: PT / PTT / INR:17.0/29.6/1.5, Differential-Neuts:84.1 %,
   Lymph:9.3 %, Mono:5.7 %, Eos:0.7 %, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   MRI Neck:
   12 x 8 mm collection of air with small amount of fluid just anterior to
   the right aspect of the esophagus at the level of the thyroid
   gland which likely represents esophageal perforation and/or abscess.
   Additional considerations include esophageal diverticulum, although
   less likely.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   # Airway Obstruction/malignancy- pt with ? episode of stridor
   overnight.  Now appears in no distress.  MRI of neck yesterday, read
   pending but there is question of a possible esophageal perforation.  Pt
   is stable currently but unclear of risks of continued edema or risk of
   complications from current state.
   - 1x dose dexamethasone; will discuss with ENT
   - f/u thoracics/ENT recs
   - f/u with oncology service
   # Leukocytosis: resolved.  Now day 2 Vanco/Levo/Flagyl/Fluconazole
   ([**12-6**]) for possible esophageal perforation/abcess.
   - Will continue with abx
   # Nutrition:  NPO for possible surgery.   J-tube feedings on hold.
   -          give 1L NS
   # Hypotension:  SBP
s consistently low but patient in no distress.  [**Month (only) 51**]
   be due to hypovolemia.
   - fluids as above.
   ICU Care
   Nutrition:  NPO, J-tube
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2130-12-7**] 03:20 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   Communication:
   Code status: Full code
   Disposition:  ICU

2130-12-08 12:00:00 Physician Attending Progress Note
Chief Complaint: Laryneal edema, perforated esophagus, respiratory
   distress, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient noted to have some stridor when sleeping last night; resolved
   when awake. O2 sats stable. Tachycardia with exertion.
   Received fliuds for drop in BP. Tolerating tube feeds.
   Afebrile
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 01:53 PM
   Vancomycin - [**2130-12-8**] 08:40 AM
   Metronidazole - [**2130-12-8**] 09:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-12-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-12-7**] 11:59 PM
   Other medications:
   protonix, methadone, nortryptaline, compazine, heparin, insulin,
   levoflox, flagyl, vanco, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-8**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (76 - 105) bpm
   BP: 94/48(58) {88/48(57) - 107/69(76)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,860 mL
                                                                  1,548 mL
   PO:
             TF:
                                                                    390 mL
   IVF:
                                                                  2,060 mL
                                                                  1,548 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    950 mL
   Urine:
                                                                  1,900 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , Wheezes : Prolonged expiratory phase), Soft
   inspiratory stridor present
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Unable to assess due to language barrier,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.0 g/dL
   514 K/uL
   97 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   99 mEq/L
   135 mEq/L
   26.8 %
   7.0 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
                            [**2130-12-8**]  04:25 AM
                            [**2130-12-8**]  06:10 AM
   WBC
   7.9
   12.8
   7.0
   Hct
   27.8
   30.3
   26.8
   Plt
   633
   645
   514
   Cr
   0.5
   0.6
   0.7
   Glucose
   138
   142
   97
   Other labs: PT / PTT / INR:17.0/29.6/1.5, Differential-Neuts:84.1 %,
   Lymph:9.3 %, Mono:5.7 %, Eos:0.7 %, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   LARYNGEAL EDEMA
   ESOPHAGEAL PERFORATION
   Ongoing concern about patient's airway; stridor persists. Will place
   back on decadron. Plan was for a tracheostomy to be done today; the
   family and patient are resistant. Attempts being made to contact her
   Primary care physician.
   [**Name10 (NameIs) 4257**] and WBC improving on antibiotics for esophageal perforation.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-12-7**] 03:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2130-12-09 07:45:00 Physician Resident Progress Note
Chief Complaint: stridor
   24 Hour Events:
   - Appeared lethargic in am; abg did not show hypercarbia 7.48/38/159/29
   - Had trachyostomy; tolerated procedure well.  Weaned off vent
   overnight and placed on trach mask.
   - Per Thoracics, would attempt passy miur valve today.
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2130-12-6**] 01:53 PM
   Vancomycin - [**2130-12-8**] 08:09 PM
   Metronidazole - [**2130-12-9**] 12:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-9**] 12:10 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies n/v, cp, sob.
   Flowsheet Data as of  [**2130-12-9**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 99 (90 - 131) bpm
   BP: 92/60(67) {82/26(57) - 120/90(96)} mmHg
   RR: 11 (9 - 23) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,637 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                  4,637 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                  1,350 mL
   Urine:
                                                                  3,000 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,637 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 602 (602 - 721) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.48/38/159/28/5
   Ve: 6.5 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Thin, NAD
   HEENT: PERRL, MMM, neck mildly tenderness to palpation.
   Neck: Trach mask in place, site c/d/i
   Cardiovascular: RRR, s1/s2, no appreciable murmur
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: CTA b
   Abdominal: Soft, Non-tender, J tube in place, non-tender, site c/d/i
   Extremities: no clubbing, cyanosis, edema
   Neurologic: Attentive, Follows simple commands, Responds,
   Labs / Radiology
   466 K/uL
   8.8 g/dL
   97 mg/dL
   0.6 mg/dL
   28 mEq/L
   5.9 mEq/L
   8 mg/dL
   98 mEq/L
   132 mEq/L
   25.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
                            [**2130-12-8**]  04:25 AM
                            [**2130-12-8**]  06:10 AM
                            [**2130-12-8**]  12:33 PM
                            [**2130-12-9**]  04:54 AM
   WBC
   7.9
   12.8
   7.0
   9.1
   Hct
   27.8
   30.3
   26.8
   25.0
   Plt
   633
   645
   514
   466
   Cr
   0.5
   0.6
   0.7
   0.6
   TCO2
   29
   Glucose
   138
   142
   97
   97
   Other labs: PT / PTT / INR:17.0/29.6/1.5, Differential-Neuts:84.1 %,
   Lymph:9.3 %, Mono:5.7 %, Eos:0.7 %, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
40yF with terminal esophageal CA with hx of recent stridor,n/v/retching and ? ev
idence on MRI for esophageal perforation now s/p trach placement.
   # Airway Obstruction/malignancy- S/p trach placement [**12-8**] and without
   stridor. Received 1 dose of dexemethasone yesterday.  Now appears in no
   distress.  MRI of neck ? esophageal perforation vs abscess vs
   diverticulum.  On CPAP o/n and now transitioned to trach mask.
   - Continue broad spectrum antibiotic coverage empirically for esophagel
   perforation (see below)
   - f/u thoracics/ENT recs
   - f/u with oncology service
   # Leukocytosis: resolved.  Now day 3 Vanco/Levo/Flagyl/Fluconazole
   ([**12-6**]) for possible esophageal perforation/abcess.
   - Will continue with abx (per thoracics
 plan for 2 weeks broad
   spectrum coverage)
   # Nutrition:  restarting tube feeds today pending surgical approval
   # Hypotension:  SBP
s consistently low but patient in no distress.  [**Month (only) 51**]
   be due to hypovolemia.
   - fluids as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-12-8**] 02:16 PM
   20 Gauge - [**2130-12-8**] 07:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the note by Dr [**Last Name (STitle) 4058**] and
   agree with the findings and plan of care.  I have previously seen this
   unfortunate young woman with a very serious esophageal cancer, who now
   presents with upper airway obstruction needing tracheostomy.  I concur
   with antibiotic coverage in case there has been some soiling of
   mediastinum from occult esophageal perf.  We will attempt to expedite a
   Passy Muir valve for her use, but the major limiting factor in
   communication is her language barrier.  She seems very depressed and I
   would strongly urge a psych consult with the help of interpreter
   services, as I think she may benefit from antidepressant therapy.  We
   will call her out to the floor, now that her airway is stable with a
   sutured in trache.
   Time spent in care: 40 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2130-12-9**] 20:17 ------

2130-12-11 07:52:00 Physician Resident Progress Note
Chief Complaint: airway obstruction
   24 Hour Events:
   Tachycardic; hypotensive to SBPs 80s.
   Cortisol level 4.1; increased to 25 with cortsyntropin.
   Given 500cc bolus this AM for tachycardia and MAP 58; HR and BP
   responded but appeared orthostatic and so given another 500cc bolus.
   Seen by speech and swallow.  Failed PMV; recommended waiting a few more
   days until patient more comfortable with trach.
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2130-12-10**] 06:00 PM
   Vancomycin - [**2130-12-10**] 08:11 PM
   Metronidazole - [**2130-12-10**] 11:11 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-10**] 08:12 PM
   Review of systems is unchanged from admission except as noted below
   Review of systems:   denies pain, again complains of cough
   Flowsheet Data as of  [**2130-12-11**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 128 (99 - 145) bpm
   BP: 83/39(51) {80/39(51) - 92/67(72)} mmHg
   RR: 30 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  4,644 mL
                                                                    376 mL
   PO:
             TF:
                                                                  1,243 mL
                                                                    198 mL
   IVF:
                                                                  3,190 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,125 mL
   Urine:
                                                                  2,750 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,894 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   Physical Examination
   General Appearance: Thin, NAD
   HEENT: PERRL, MMM, neck mildly tenderness to palpation.
   Neck: Trach mask in place, site c/d/i
   Cardiovascular: RRR, s1/s2, no appreciable murmur
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: CTA b
   Abdominal: Soft, Non-tender, J tube in place, non-tender, site c/d/i
   Extremities: no clubbing, cyanosis, edema
   Neurologic: Attentive, Follows simple commands, Responds,
   Labs / Radiology
   415 K/uL
   8.9 g/dL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   26.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
                            [**2130-12-8**]  04:25 AM
                            [**2130-12-8**]  06:10 AM
                            [**2130-12-8**]  12:33 PM
                            [**2130-12-9**]  04:54 AM
                            [**2130-12-10**]  04:26 AM
                            [**2130-12-11**]  04:22 AM
   WBC
   7.9
   12.8
   7.0
   9.1
   8.4
   6.9
   Hct
   27.8
   30.3
   26.8
   25.0
   26.7
   26.1
   Plt
   633
   645
   514
   466
   457
   415
   Cr
   0.5
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   29
   Glucose
   138
   142
   97
   97
   116
   107
   Other labs: PT / PTT / INR:17.0/29.6/1.5, Differential-Neuts:84.1 %,
   Lymph:9.3 %, Mono:5.7 %, Eos:0.7 %, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
40yF with terminal esophageal CA with hx of recent stridor,n/v/retching and ? ev
idence on MRI for esophageal perforation now s/p trach placement.
   # Airway/Malignancy:  S/P tracheostomy on [**12-8**].  Appears in no
   distress but does have persistent cough.  Now on trach mask; failed
   passy miur valve.
   - Continue broad spectrum antibiotic coverage empirically for
   esophageal perforation (see below)
   - f/u thoracics/ENT recs
   - f/u with oncology service
   - f/u palliative care recs
   # Hypotension/tachycardia:  Pt with low SBPs at baseline.  No evidence
   of poor perfusion; good uop.  Tachy with movement, cough.  EKG shows
   sinus tach.  Given location of cancer, hx radiation treatment.  ?  If
   this may related to cardiac effusion, pericarditis?
   - Echo today.
   # Flat Affect:  ? depression.  Pt refusing social work/psych input.
   - will continue to monitor
   # Leukocytosis: resolved.  Now day 4 Vanco/Levo/Flagyl/Fluconazole
   ([**12-6**]) for possible esophageal perforation/abcess.
   - Will continue with abx (per thoracics
 plan for 2 weeks broad
   spectrum coverage)
   # Nutrition: restarting tube feeds today pending surgical approval
   #Pain: Continue regimen with home regimen
   -Gabapentin 300QAM and 600QPM
   -Methadone 2.5mg [**Hospital1 7**]
   #Proph: Bowel Regimen with Docusate and Lactulose.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2130-12-11**] 06:00 AM 110 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-12-8**] 02:16 PM
   20 Gauge - [**2130-12-8**] 07:20 PM
   Prophylaxis:
   DVT:  Heparin SQ.
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:  transfer to floor

2130-12-11 12:51:00 Physician Attending Progress Note
Chief Complaint: Laryngeal edema, esophageal cancer, respiratory
   distress, esophageal perforation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has had tachycadia and intermittent hypotension. Patient given
   fluids for orthostatic changes in HR. Patient has hx of low baseline
   blood pressure.
   [**Last Name (un) **] stim done (4.1 to 25).
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2130-12-10**] 06:00 PM
   Metronidazole - [**2130-12-11**] 08:19 AM
   Vancomycin - [**2130-12-11**] 09:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-12-10**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-11**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 125 (99 - 145) bpm
   BP: 70/43(49) {70/39(49) - 92/67(72)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  4,644 mL
                                                                  2,239 mL
   PO:
             TF:
                                                                  1,243 mL
                                                                    714 mL
   IVF:
                                                                  3,190 mL
                                                                  1,475 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,125 mL
   Urine:
                                                                  2,750 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,894 mL
                                                                  1,114 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Diffuse coarse rales, probable large airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess due to language barrier,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   415 K/uL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   26.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2130-12-6**]  03:18 AM
                            [**2130-12-7**]  03:47 AM
                            [**2130-12-8**]  04:25 AM
                            [**2130-12-8**]  06:10 AM
                            [**2130-12-8**]  12:33 PM
                            [**2130-12-9**]  04:54 AM
                            [**2130-12-10**]  04:26 AM
                            [**2130-12-11**]  04:22 AM
   WBC
   7.9
   12.8
   7.0
   9.1
   8.4
   6.9
   Hct
   27.8
   30.3
   26.8
   25.0
   26.7
   26.1
   Plt
   633
   645
   514
   466
   457
   415
   Cr
   0.5
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   29
   Glucose
   138
   142
   97
   97
   116
   107
   Other labs: PT / PTT / INR:17.0/29.6/1.5, Differential-Neuts:84.1 %,
   Lymph:9.3 %, Mono:5.7 %, Eos:0.7 %, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
 CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 ANEMIA, CHRONIC
   LARYNGEAL EDEMA
   O2 sats are good on trach mask, with no increased work of breathing;
   patient has stridor with trach cuff down -  may be pulling some air
   over her vocal cords.
   Hypotension today that appears to be responding to fluids. BUN/creat
   ratio normal. Has made over a liter of urine since midnight. The good
   urine output suggests a high output state, which may be more consistent
   with vasodilatation than primary volume depletion, or that this is her
   normal pressure and she is voiding exactly what we put in. WBC normal.
   Continues on antibiotics for esophageal perforation. Obtain echo to
   assess for pericardial involvement with tumor.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2130-12-11**] 06:00 AM 110 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-12-8**] 02:16 PM
   20 Gauge - [**2130-12-8**] 07:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes